US05747518
2) 2-amino-3-(4-tolyl)thiophene
After dissolving 0.5 g of 2-nitro-3-(4-tolyl)thiophene in 20 ml of dioxane, 0.25 g of 5% pd/C was added and catalytic reduction was carried out at room temperature for 5 hours. The solution obtained was filtered to recover the catalyst and the filtrate was used as intact for the next reaction.

reactant | 2-nitro-3-(4-tolyl)thiophene | 0.5 g | [N+](=O)([O-])C=1SC=CC1C1=CC=C(C=C1)C | C11H9NO2S
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-amino-3-(4-tolyl)thiophene | NC=1SC=CC1C1=CC=C(C=C1)C | C11H11NS
